US07008957B2
1i) (3R,6R,7aS)-6-Benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxamide
A mixture of 170 mg of methyl (3R,6R,7aS)-6-benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate and 10 ml of a 7N NH3 solution in methanol is left to stand at room temperature overnight. The volatile constituents are stripped off in vacuo, and the residue is stirred with tert-butyl methyl ether, and the solid is filtered off with suction and dried in vacuo at 40° C.

reactant | methyl (3R,6R,7aS)-6-benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxylate | 170 mg | C(C1=CC=CC=C1)[C@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)OC)NC(=O)OC(C)(C)C | C20H26N2O5S
reactant | NH3 | 7N | N | H3N
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | methanol | CO | CH4O
product | (3R,6R,7aS)-6-Benzyl-6-tert-butoxycarbonylamino-5-oxohexahydropyrrolo[2,1-b]thiazole-3-carboxamide | C(C1=CC=CC=C1)[C@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)N)NC(=O)OC(C)(C)C | C19H25N3O4S
